US05510345
Preparation of 2-(1-adamantylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine
2-(1-Adamantylamino)-4-chloro-6-pyrrolidinopyrimidine is reacted with piperazine as described in Example 17 to give the title compound in a yield of 69.7%, m.p.: 160°-164° C.

reactant | 2-(1-Adamantylamino)-4-chloro-6-pyrrolidinopyrimidine | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=CC(=N2)Cl)N2CCCC2 | C18H25ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(1-adamantylamino)-4-(1-piperazinyl)-6-pyrrolidinopyrimidine | yield of 69.7% | C12(CC3CC(CC(C1)C3)C2)NC2=NC(=CC(=N2)N2CCNCC2)N2CCCC2 | C22H34N6
